US06878715B1
To a solution of (R)-1-(5-acetoxyhexyl)-8-bromo-7-ethoxymethyl-3-methylxanthine (prepared as described for CT12440) (3.8 g, 8.5 mmol ) in methanol (150 ml) was added a solution of hydrogen chloride in ether (1.0 M, 20 ml). The reaction mixture was stirred at room temperature for 24 hours. Evaporation of the solvent under reduced pressure provided (R)-1-(5-hydroxyhexyl)-8-bromo-3-methylxanthine (2.9 g, 98% yield) as a white solid.

reactant | (R)-1-(5-acetoxyhexyl)-8-bromo-7-ethoxymethyl-3-methylxanthine | 8.5 mmol, 3.8 g | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=C(N(C2C1=O)COCC)Br)C)C | C17H25BrN4O5
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
solvent | ether | 1.0 M, 20 ml | CCOCC | C4H10O
product | (R)-1-(5-hydroxyhexyl)-8-bromo-3-methylxanthine | 2.9 g, 98% yield | O[C@@H](CCCCN1C(=O)N(C=2N=C(NC2C1=O)Br)C)C | C12H17BrN4O3
